US05472979
Stage A: 4-(4-Chlorophenylsulfonyl)aminocyclohexanol
To 100 g of trans-4-aminocyclohexanol hydrochloride suspended in 11 of chloroform are added, at 5° C., 184 ml of triethylamine, followed by a solution containing 143 g of 4-chlorophenylsulfonyl chloride in 150 ml of chloroform. After reaction for 2 hours, the reaction mixture is poured onto 500 ml of water. The expected product is obtained by filtration of the precipitate.

reactant | trans-4-aminocyclohexanol hydrochloride | 100 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | triethylamine | 184 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylsulfonyl chloride | 143 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | 500 ml | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Chlorophenylsulfonyl)aminocyclohexanol | Yield: 95% | ClC1=CC=C(C=C1)S(=O)(=O)NC1CCC(CC1)O | C12H16ClNO3S
